US08486996B2
3-Amino-5-chloro-2-(2-ethoxybenzoyl)-benzofuran
A suspension of potassium carbonate (0.056 g, 0.4 mmol), 3-amino-5-chloro-2-(2-hydroxybenzoyl)-benzofuran (0.05 g, 0.4 mmol) and ethyl iodide (0.05 g, 0.34 mmol) in dry DMF is stirred at 60° C. for 2 h. The resulting mixture is diluted with ethyl acetate and washed with water. Drying over sodium sulfate, filtering, evaporating the solvent and purification of the residue by silicagel column chromatography yields the title compound, having a m.p. of 114-115° C.

reactant | potassium carbonate | 0.4 mmol, 0.056 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-amino-5-chloro-2-(2-hydroxybenzoyl)-benzofuran | 0.4 mmol, 0.05 g | NC1=C(OC2=C1C=C(C=C2)Cl)C(C2=C(C=CC=C2)O)=O | C15H10ClNO3
reactant | ethyl iodide | 0.34 mmol, 0.05 g | C(C)I | C2H5I
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Amino-5-chloro-2-(2-ethoxybenzoyl)-benzofuran | NC1=C(OC2=C1C=C(C=C2)Cl)C(C2=C(C=CC=C2)OCC)=O | C17H14ClNO3
